US04011319
A solution of 27.1 g. (0.1 mol) of N-benzyl-3,4-dimethoxyphenylethylamine and 23.3 g. (0.15 mol) of m-chlorostyrene oxide in 500 ml. of methanol is stirred and refluxed overnight. The methanol is removed in vacuo and the residual N-benzyl-N-[2-(3,4-dimethoxyphenyl)ethyl]-2-hydroxy-2-(3-chlorophenyl)ethylamine is reduced without further purification. This sample (0.01 mol) is dissolved in ether, acidified with ethereal hydrogen chloride and hydrochloride precipitates. The latter is dissolved in 90 ml. of methanol, the solution is added to a mixture of 0.5 g. of palladium-on-carbon in 10 ml. of ethyl acetate and the mixture is hydrogenated at room temperature for 90 minutes at 60 psi. The reaction mixture is filtered and the filtrate evaporated in vacuo to yield N-[2-(3,4-dimethoxyphenyl)ethyl]-2-hydroxy-2-(3-chlorophenyl)ethylamine hydrochloride, m.p. 155°-157.5° C.

reactant | N-benzyl-3,4-dimethoxyphenylethylamine | 0.1 mol | C(C1=CC=CC=C1)NCCC1=CC(=C(C=C1)OC)OC | C17H21NO2
reactant | m-chlorostyrene oxide | 0.15 mol | ClC=1C=C(C2CO2)C=CC1 | C8H7ClO
solvent | methanol | CO | CH4O
product | N-[2-(3,4-dimethoxyphenyl)ethyl]-2-hydroxy-2-(3-chlorophenyl)ethylamine hydrochloride | Cl.COC=1C=C(C=CC1OC)CCNCC(C1=CC(=CC=C1)Cl)O | InChI=1S/C18H22ClNO3.ClH/c1-22-17-7-6-13(10-18(17)23-2)8-9-20-12-16(21)14-4-3-5-15(19)11-14;/h3-7,10-11,16,20-21H,8-9,12H2,1-2H3;1H
